US09238631B2
c) Di-tert-butyl (4R)—N-(tert-butoxycarbonyl)-4-[(5-hydroxypyridin-2-yl)methyl]-L-glutamate
To a solution of 610 mg (1.10 mmol) of di-tert-butyl (4R)-4-{[5-(benzyloxy)pyridin-2-yl]methyl}-N-(tert-butoxycarbonyl)-L-glutamate in methanol (35 mL) was added a 10% palladium on charcoal catalyst (29 mg), and the resulting suspension was stirred overnight under an atmosphere of hydrogen at room temperature. The catalyst was removed by filtration, and the filtrate was evaporated to give 500 mg of the pure target compound as colorless foam (98% yield).

reactant | di-tert-butyl (4R)-4-{[5-(benzyloxy)pyridin-2-yl]methyl}-N-(tert-butoxycarbonyl)-L-glutamate | 1.10 mmol, 610 mg | C(C1=CC=CC=C1)OC=1C=CC(=NC1)C[C@@H](C[C@H](NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C31H44N2O7
solvent | methanol | 35 mL | CO | CH4O
catalyst | palladium on charcoal | 29 mg | [Pd] | Pd
product | Di-tert-butyl (4R)—N-(tert-butoxycarbonyl)-4-[(5-hydroxypyridin-2-yl)methyl]-L-glutamate | 500 mg, 98% yield | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)OC(C)(C)C)CC1=NC=C(C=C1)O)C(=O)OC(C)(C)C | C24H38N2O7
